US05428158
Dissolve 2-(carboethoxy)-2-(4-methoxybenzylthio)propane (1.05 g, 3.91 mmol) in a mixture of 95% ethanol (18 mL), water (9 mL) and tetrahydrofuran (10 mL). Add potassium hydroxide (1.4 g, 25 mmol) and stir at room temperature for 2 hours then at 55° C. for 1 hour. Evaporate the solvent in vacuo and partition between water (50 mL) and ether (50 mL). Acidify to pH 1 with concentrated hydrochloric acid and extract into methylene chloride (50 mL). Dry (Na2SO4) and evaporate the solvent in vacuo to give 2-(carboxy)-2-(4-methoxybenzylthio)propane as a tan solid (763 mg).

reactant | 2-(carboethoxy)-2-(4-methoxybenzylthio)propane | 3.91 mmol, 1.05 g | C(=O)(OCC)C(C)(C)SCC1=CC=C(C=C1)OC | C14H20O3S
reactant | water | 9 mL | O | H2O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 25 mmol, 1.4 g | [OH-].[K+]
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | 2-(carboxy)-2-(4-methoxybenzylthio)propane | 763 mg | C(=O)(O)C(C)(C)SCC1=CC=C(C=C1)OC | C12H16O3S
